US04391806
A solution of 5.0 g of 2-chloro-6,7,8,9-tetrahydropyridazino[1,6-a]benzimidazole in 30 ml of piperidine was stirred and heated at reflux for 72 hours. The reaction mixture was poured into 200 ml of ice water and the tan solid which formed was separated by filtration and air dried. It was then recrystallized from a mixture of ethanol and water to give 2-(1-piperidinyl)-6,7,8,9-tetrahydropyridazino[1,6-a]benzimidazole melting at about 184°-185° C.

reactant | 2-chloro-6,7,8,9-tetrahydropyridazino[1,6-a]benzimidazole | 5.0 g | ClC1=NN2C(=NC3=C2CCCC3)C=C1 | C10H10ClN3
reactant | piperidine | 30 ml | N1CCCCC1 | C5H11N
product | 2-(1-piperidinyl)-6,7,8,9-tetrahydropyridazino[1,6-a]benzimidazole | N1(CCCCC1)C1=NN2C(=NC3=C2CCCC3)C=C1 | C15H20N4
